* LVS netlist generated with ICnet by 'dlavila' on Fri Jan 10 2014 at 11:07:54

*
* Component pathname : $SC_filter/default.group/logic.views/BUFFER_2
*
.subckt BUFFER_2  Vo AGnd AVdd Ib Vi+ Vi-

        M90 ND7 N$801 ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        C1 N$943 Vo 87.425f m=6 w=13u l=6.5u $[ mimcaps_mm ]
        M82 ND7 N$771 ND7 AVdd p_18_mm w=2.5u l=0.45u m=1
        R1 ND9 N$941 AVdd 5.219k l=10u w=2u m=1 $sub=AVdd $[ rnhr1000_mm
+  ]
        M64 ND1 N$752 ND1 AVdd p_18_mm w=2.5u l=0.45u m=1
        M14 ND7 Vpcas ND9 AVdd p_18_mm w=2.5u l=0.45u m=2
        M18 ND3 Vi- N$209 AVdd p_18_mm w=2.5u l=0.45u m=16
        M5 ND1 ND8 AVdd AVdd p_18_mm w=2.5u l=0.45u m=4
        M8 ND8 Vncas ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M2 N$165 Vb4 AGnd AGnd n_18_mm w=1.6u l=0.45u m=4
        M41 ND4 Vi+ N$209 AVdd p_18_mm w=2.5u l=0.45u m=16
        M42 N$427 N$427 N$209 AVdd p_18_mm w=8u l=0.45u m=10
        MOUTP Vo ND9 AVdd AVdd p_18_mm w=2.5u l=0.45u m=40
        M52 ND1 N$749 ND1 AVdd p_18_mm w=2.5u l=0.45u m=1
        MIN1 ND1 Vi- N$204 AGnd n_18_mm w=1.6u l=0.45u m=8
        M1 N$209 Vb2 N$206 AVdd p_18_mm w=2.5u l=0.45u m=8
        M11 ND9 Vncas ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        M9 ND6 Vb3 ND3 AGnd n_18_mm w=1.6u l=0.45u m=4
        M16 ND4 ND6 AGnd AGnd n_18_mm w=1.6u l=0.45u m=2
        MOUTN Vo ND7 AGnd AGnd n_18_mm w=1.6u l=0.45u m=20
        M79 ND8 N$761 ND8 AVdd p_18_mm w=2.5u l=0.45u m=1
        M81 ND6 N$768 ND6 AVdd p_18_mm w=2.5u l=0.45u m=1
        M78 ND7 N$758 ND7 AVdd p_18_mm w=2.5u l=0.45u m=1
        M77 ND6 N$755 ND6 AVdd p_18_mm w=2.5u l=0.45u m=1
        M4 N$204 Vb3 N$165 AGnd n_18_mm w=1.6u l=0.45u m=4
        M10 ND8 Vb2 ND1 AVdd p_18_mm w=2.5u l=0.45u m=8
        M80 ND9 N$764 ND9 AVdd p_18_mm w=2.5u l=0.45u m=1
        M51 ND1 N$688 ND1 AVdd p_18_mm w=2.5u l=0.45u m=1
        R4 ND7 N$943 AVdd 5.219k l=10u w=2u m=1 $sub=AVdd $[ rnhr1000_mm
+  ]
        R3 ND7 N$943 AVdd 5.219k l=10u w=2u m=1 $sub=AVdd $[ rnhr1000_mm
+  ]
        R2 ND9 N$941 AVdd 5.219k l=10u w=2u m=1 $sub=AVdd $[ rnhr1000_mm
+  ]
        M15 ND3 ND6 AGnd AGnd n_18_mm w=1.6u l=0.45u m=2
        M13 ND6 Vpcas ND8 AVdd p_18_mm w=2.5u l=0.45u m=2
        M7 ND7 Vb3 ND4 AGnd n_18_mm w=1.6u l=0.45u m=4
        M67 ND8 N$812 ND8 AGnd n_18_mm w=1.6u l=0.45u m=1
        M68 ND9 N$816 ND9 AGnd n_18_mm w=1.6u l=0.45u m=1
        M12 ND9 Vb2 ND2 AVdd p_18_mm w=2.5u l=0.45u m=8
        M50 N$427 N$427 N$204 AGnd n_18_mm w=5.12u l=0.45u m=10
        M89 ND6 N$798 ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M88 ND7 N$795 ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        M87 ND6 N$792 ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M86 ND7 N$789 ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        M84 ND6 N$786 ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M85 ND7 N$780 ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        M83 ND6 N$774 ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M19 N$427 N$427 N$209 AVdd p_18_mm w=8u l=0.45u m=10
        C2 N$941 Vo 87.425f m=6 w=13u l=6.5u $[ mimcaps_mm ]
        M66 ND7 N$702 ND7 AGnd n_18_mm w=1.6u l=0.45u m=1
        M65 ND6 N$672 ND6 AGnd n_18_mm w=1.6u l=0.45u m=1
        M63 ND1 N$668 ND1 AVdd p_18_mm w=2.5u l=0.45u m=1
        M3 N$206 Vb1 AVdd AVdd p_18_mm w=2.5u l=0.45u m=8
        M17 ND2 Vi+ N$204 AGnd n_18_mm w=1.6u l=0.45u m=8
        M6 ND2 ND8 AVdd AVdd p_18_mm w=2.5u l=0.45u m=4
        M55 ND8 N$695 ND8 AVdd p_18_mm w=2.5u l=0.45u m=1
        M56 ND9 N$650 ND9 AVdd p_18_mm w=2.5u l=0.45u m=1
.ends BUFFER_2

