* SPICE NETLIST
***************************************

.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT BUFFER_2
** N=50 EP=0 IP=0 FDC=244
R0 2 1 5219.42 L=1e-05 W=2e-06 $SUB=40 $[RNHR1000_MM] $X=73870 $Y=-680 $D=45
R1 3 4 5219.42 L=1e-05 W=2e-06 $SUB=40 $[RNHR1000_MM] $X=73870 $Y=15000 $D=45
R2 4 3 5219.42 L=1e-05 W=2e-06 $SUB=40 $[RNHR1000_MM] $X=132290 $Y=-570 $D=45
R3 1 2 5219.42 L=1e-05 W=2e-06 $SUB=40 $[RNHR1000_MM] $X=132290 $Y=15110 $D=45
M4 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=72710 $Y=49790 $D=3
M5 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=72710 $Y=53170 $D=3
M6 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=73700 $Y=49790 $D=3
M7 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=73700 $Y=53170 $D=3
M8 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=74690 $Y=49790 $D=3
M9 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=74690 $Y=53170 $D=3
M10 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=75680 $Y=49790 $D=3
M11 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=75680 $Y=53170 $D=3
M12 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=76670 $Y=49790 $D=3
M13 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=76670 $Y=53170 $D=3
M14 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=77660 $Y=49790 $D=3
M15 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=77660 $Y=53170 $D=3
M16 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=78650 $Y=49790 $D=3
M17 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=78650 $Y=53170 $D=3
M18 1 5 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=79580 $Y=32460 $D=3
M19 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=79640 $Y=49790 $D=3
M20 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=79640 $Y=53170 $D=3
M21 3 6 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=80570 $Y=32460 $D=3
M22 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=80630 $Y=49790 $D=3
M23 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=80630 $Y=53170 $D=3
M24 3 7 3 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=81560 $Y=32460 $D=3
M25 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=81620 $Y=49790 $D=3
M26 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=81620 $Y=53170 $D=3
M27 12 8 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=83850 $Y=32460 $D=3
M28 24 6 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=84840 $Y=32460 $D=3
M29 24 9 24 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=85830 $Y=32460 $D=3
M30 43 16 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=91010 $Y=41120 $D=3
M31 44 16 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=91010 $Y=45720 $D=3
M32 44 10 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=92920 $Y=51990 $D=3
M33 44 16 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93300 $Y=41120 $D=3
M34 43 16 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93300 $Y=45720 $D=3
M35 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93550 $Y=14680 $D=3
M36 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93550 $Y=19560 $D=3
M37 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93550 $Y=24810 $D=3
M38 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93550 $Y=29690 $D=3
M39 40 12 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=93910 $Y=51990 $D=3
M40 12 16 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94290 $Y=41120 $D=3
M41 1 16 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94290 $Y=45720 $D=3
M42 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94540 $Y=14680 $D=3
M43 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94540 $Y=19560 $D=3
M44 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94540 $Y=24810 $D=3
M45 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94540 $Y=29690 $D=3
M46 43 12 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=94900 $Y=51990 $D=3
M47 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=95530 $Y=14680 $D=3
M48 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=95530 $Y=19560 $D=3
M49 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=95530 $Y=24810 $D=3
M50 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=95530 $Y=29690 $D=3
M51 40 12 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=95890 $Y=51990 $D=3
M52 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96520 $Y=14680 $D=3
M53 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96520 $Y=19560 $D=3
M54 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96520 $Y=24810 $D=3
M55 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96520 $Y=29690 $D=3
M56 1 16 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96580 $Y=41120 $D=3
M57 12 16 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96580 $Y=45720 $D=3
M58 44 12 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=96880 $Y=51990 $D=3
M59 44 17 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=97870 $Y=51990 $D=3
M60 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=99250 $Y=14700 $D=3
M61 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=99250 $Y=24190 $D=3
M62 50 22 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=100160 $Y=51990 $D=3
M63 49 16 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=100230 $Y=43440 $D=3
M64 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=100240 $Y=14700 $D=3
M65 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=100240 $Y=24190 $D=3
M66 40 22 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=101150 $Y=51990 $D=3
M67 50 16 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=101220 $Y=43440 $D=3
M68 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=101230 $Y=14700 $D=3
M69 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=101230 $Y=24190 $D=3
M70 50 22 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=102140 $Y=51990 $D=3
M71 49 16 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=102210 $Y=43440 $D=3
M72 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=102220 $Y=14700 $D=3
M73 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=102220 $Y=24190 $D=3
M74 40 22 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=103130 $Y=51990 $D=3
M75 50 16 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=103200 $Y=43440 $D=3
M76 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=103210 $Y=14700 $D=3
M77 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=103210 $Y=24190 $D=3
M78 50 22 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=104120 $Y=51990 $D=3
M79 49 16 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=104190 $Y=43440 $D=3
M80 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=104200 $Y=14700 $D=3
M81 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=104200 $Y=24190 $D=3
M82 40 22 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=105110 $Y=51990 $D=3
M83 50 16 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=105180 $Y=43440 $D=3
M84 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=105190 $Y=14700 $D=3
M85 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=105190 $Y=24190 $D=3
M86 50 22 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=106100 $Y=51990 $D=3
M87 49 16 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=106170 $Y=43440 $D=3
M88 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=106180 $Y=14700 $D=3
M89 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=106180 $Y=24190 $D=3
M90 40 22 50 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=107090 $Y=51990 $D=3
M91 50 16 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=107160 $Y=43440 $D=3
M92 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=107170 $Y=14700 $D=3
M93 30 30 49 40 P_18_MM L=4.5e-07 W=8e-06 $X=107170 $Y=24190 $D=3
M94 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=108160 $Y=14700 $D=3
M95 49 30 30 40 P_18_MM L=4.5e-07 W=8e-06 $X=108160 $Y=24190 $D=3
M96 44 32 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=109380 $Y=51990 $D=3
M97 40 12 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110370 $Y=51990 $D=3
M98 43 16 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110810 $Y=41120 $D=3
M99 44 16 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110810 $Y=45720 $D=3
M100 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110910 $Y=14680 $D=3
M101 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110910 $Y=19560 $D=3
M102 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110910 $Y=24810 $D=3
M103 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=110910 $Y=29690 $D=3
M104 43 12 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=111360 $Y=51990 $D=3
M105 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=111900 $Y=14680 $D=3
M106 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=111900 $Y=19560 $D=3
M107 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=111900 $Y=24810 $D=3
M108 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=111900 $Y=29690 $D=3
M109 40 12 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=112350 $Y=51990 $D=3
M110 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=112890 $Y=14680 $D=3
M111 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=112890 $Y=19560 $D=3
M112 49 13 47 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=112890 $Y=24810 $D=3
M113 49 11 46 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=112890 $Y=29690 $D=3
M114 44 16 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113100 $Y=41120 $D=3
M115 43 16 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113100 $Y=45720 $D=3
M116 44 12 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113340 $Y=51990 $D=3
M117 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113880 $Y=14680 $D=3
M118 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113880 $Y=19560 $D=3
M119 46 11 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113880 $Y=24810 $D=3
M120 47 13 49 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=113880 $Y=29690 $D=3
M121 12 16 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=114090 $Y=41120 $D=3
M122 1 16 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=114090 $Y=45720 $D=3
M123 44 35 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=114330 $Y=51990 $D=3
M124 1 16 43 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=116380 $Y=41120 $D=3
M125 12 16 44 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=116380 $Y=45720 $D=3
M126 24 36 24 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=121540 $Y=32460 $D=3
M127 12 6 24 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=122530 $Y=32460 $D=3
M128 12 37 12 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=123520 $Y=32460 $D=3
M129 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=125800 $Y=49790 $D=3
M130 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=125800 $Y=53170 $D=3
M131 3 38 3 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=125810 $Y=32460 $D=3
M132 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=126790 $Y=49790 $D=3
M133 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=126790 $Y=53170 $D=3
M134 1 6 3 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=126800 $Y=32460 $D=3
M135 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=127780 $Y=49790 $D=3
M136 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=127780 $Y=53170 $D=3
M137 1 39 1 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=127790 $Y=32460 $D=3
M138 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=128770 $Y=49790 $D=3
M139 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=128770 $Y=53170 $D=3
M140 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=129760 $Y=49790 $D=3
M141 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=129760 $Y=53170 $D=3
M142 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=130750 $Y=49790 $D=3
M143 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=130750 $Y=53170 $D=3
M144 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=131740 $Y=49790 $D=3
M145 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=131740 $Y=53170 $D=3
M146 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=132730 $Y=49790 $D=3
M147 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=132730 $Y=53170 $D=3
M148 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=133720 $Y=49790 $D=3
M149 42 1 40 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=133720 $Y=53170 $D=3
M150 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=134710 $Y=49790 $D=3
M151 40 1 42 40 P_18_MM L=4.5e-07 W=2.5e-06 $X=134710 $Y=53170 $D=3
M152 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=82780 $Y=-13510 $D=2
M153 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=82780 $Y=-11030 $D=2
M154 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=83770 $Y=-13510 $D=2
M155 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=83770 $Y=-11030 $D=2
M156 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=84760 $Y=-13510 $D=2
M157 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=84760 $Y=-11030 $D=2
M158 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=85750 $Y=-13510 $D=2
M159 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=85750 $Y=-11030 $D=2
M160 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=86740 $Y=-13510 $D=2
M161 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=86740 $Y=-11030 $D=2
M162 45 13 43 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=93560 $Y=3540 $D=2
M163 45 11 44 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=93560 $Y=7380 $D=2
M164 44 11 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=94550 $Y=3540 $D=2
M165 43 13 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=94550 $Y=7380 $D=2
M166 24 14 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95000 $Y=-9750 $D=2
M167 3 15 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95000 $Y=-7290 $D=2
M168 45 11 44 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95540 $Y=3540 $D=2
M169 45 13 43 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95540 $Y=7380 $D=2
M170 46 18 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95990 $Y=-9750 $D=2
M171 47 18 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=95990 $Y=-7290 $D=2
M172 43 13 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=96530 $Y=3540 $D=2
M173 44 11 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=96530 $Y=7380 $D=2
M174 3 18 47 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=98280 $Y=-9750 $D=2
M175 24 18 46 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=98280 $Y=-7290 $D=2
M176 12 19 12 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=98810 $Y=-2310 $D=2
M177 41 24 46 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=98950 $Y=-13090 $D=2
M178 30 30 45 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=99260 $Y=3560 $D=2
M179 3 20 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=99270 $Y=-9750 $D=2
M180 24 21 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=99270 $Y=-7290 $D=2
M181 24 23 12 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=99800 $Y=-2310 $D=2
M182 47 24 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=99940 $Y=-13090 $D=2
M183 45 30 30 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=100250 $Y=3560 $D=2
M184 24 25 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=100790 $Y=-2310 $D=2
M185 30 30 45 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=101240 $Y=3560 $D=2
M186 48 26 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=102230 $Y=-13090 $D=2
M187 45 18 48 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=102230 $Y=-8520 $D=2
M188 45 30 30 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=102230 $Y=3560 $D=2
M189 41 26 48 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=103220 $Y=-13090 $D=2
M190 48 18 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=103220 $Y=-8520 $D=2
M191 30 30 45 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=103220 $Y=3560 $D=2
M192 48 26 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=104210 $Y=-13090 $D=2
M193 45 18 48 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=104210 $Y=-8520 $D=2
M194 45 30 30 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=104210 $Y=3560 $D=2
M195 41 26 48 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=105200 $Y=-13090 $D=2
M196 48 18 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=105200 $Y=-8520 $D=2
M197 30 30 45 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=105200 $Y=3560 $D=2
M198 45 30 30 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=106190 $Y=3560 $D=2
M199 3 27 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=106580 $Y=-2310 $D=2
M200 30 30 45 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=107180 $Y=3560 $D=2
M201 41 24 47 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=107490 $Y=-13090 $D=2
M202 1 23 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=107570 $Y=-2310 $D=2
M203 3 28 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=108160 $Y=-9750 $D=2
M204 24 29 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=108160 $Y=-7290 $D=2
M205 45 30 30 41 N_18_MM L=4.5e-07 W=5.12e-06 $X=108170 $Y=3560 $D=2
M206 46 24 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=108480 $Y=-13090 $D=2
M207 1 31 1 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=108560 $Y=-2310 $D=2
M208 47 18 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=109150 $Y=-9750 $D=2
M209 46 18 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=109150 $Y=-7290 $D=2
M210 45 13 43 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=110900 $Y=3540 $D=2
M211 45 11 44 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=110900 $Y=7380 $D=2
M212 24 18 46 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=111440 $Y=-9750 $D=2
M213 3 18 47 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=111440 $Y=-7290 $D=2
M214 44 11 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=111890 $Y=3540 $D=2
M215 43 13 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=111890 $Y=7380 $D=2
M216 24 33 24 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=112430 $Y=-9750 $D=2
M217 3 34 3 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=112430 $Y=-7290 $D=2
M218 45 11 44 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=112880 $Y=3540 $D=2
M219 45 13 43 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=112880 $Y=7380 $D=2
M220 43 13 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=113870 $Y=3540 $D=2
M221 44 11 45 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=113870 $Y=7380 $D=2
M222 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=120540 $Y=-13530 $D=2
M223 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=120540 $Y=-11050 $D=2
M224 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=121530 $Y=-13530 $D=2
M225 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=121530 $Y=-11050 $D=2
M226 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=122520 $Y=-13530 $D=2
M227 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=122520 $Y=-11050 $D=2
M228 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=123510 $Y=-13530 $D=2
M229 42 3 41 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=123510 $Y=-11050 $D=2
M230 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=124500 $Y=-13530 $D=2
M231 41 3 42 41 N_18_MM L=4.5e-07 W=1.6e-06 $X=124500 $Y=-11050 $D=2
C232 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=-8250 $D=64
C233 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=300 $D=64
C234 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=8850 $D=64
C235 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=17400 $D=64
C236 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=25950 $D=64
C237 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=53140 $Y=34500 $D=64
C238 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=-8140 $D=64
C239 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=410 $D=64
C240 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=8960 $D=64
C241 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=17510 $D=64
C242 4 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=26060 $D=64
C243 2 42 8.7425e-14 L=1.3e-05 W=6.5e-06 $[MIMCAPS_MM] $X=142120 $Y=34610 $D=64
.ENDS
***************************************
